US07531545B2
A solution of cis-4-amino-cyclohexanecarboxylic acid benzyl ester (8 g, 34 mmol) and benzyloxyacetaldehyde (4.8 mL, 34 mmol) in 1,2-dichloroethane (2 L), was stirred at room temperature overnight. Then NaBH(OAc)3 (11 g, 51 mmol) was added and the reaction mixture was stirred at room temperature for 2 hours. Most of the solvent was then removed by vacuum. EtOAc (1 L) was added, and the resulting solution as washed with brine. The organic layer was dried over MgSO4, filtered, and evaporated to yield a residue. The residue was purified by column chromatography with flash silica gel (1:1 heptane/EtOAc) to yield cis-4-(2-benzyloxy-ethylamino)-cyclohexanecarboxylic acid benzyl ester as an oil.

reactant | cis-4-amino-cyclohexanecarboxylic acid benzyl ester | 34 mmol, 8 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N | C14H19NO2
reactant | benzyloxyacetaldehyde | 34 mmol, 4.8 mL | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | NaBH(OAc)3 | 51 mmol, 11 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 2 L | ClCCCl | C2H4Cl2
product | cis-4-(2-benzyloxy-ethylamino)-cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)NCCOCC1=CC=CC=C1 | C23H29NO3
